US04254129
When in the procedure of Example 2 an appropriate amount of ethyl 4-[3-[4-(diphenylmethylene)-1-piperidinyl]-1-oxopropyl]-α,α-dimethylbenzene acetate hydrochloride is substituted for ethyl 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetate hydrochloride, ethyl 4-[3-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxypropyl]-α,α-dimethylbenzeneacetate hydrochloride is obtained.

reactant | ethyl 4-[3-[4-(diphenylmethylene)-1-piperidinyl]-1-oxopropyl]-α,α-dimethylbenzene acetate hydrochloride | Cl.C1(=CC=CC=C1)C(=C1CCN(CC1)CCC(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C)C1=CC=CC=C1
reactant | ethyl 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetate hydrochloride | Cl.OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl 4-[3-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxypropyl]-α,α-dimethylbenzeneacetate hydrochloride | Cl.OC(C1CCN(CC1)CCC(O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C33H41NO4.ClH/c1-4-38-31(36)32(2,3)26-17-15-25(16-18-26)30(35)21-24-34-22-19-29(20-23-34)33(37,27-11-7-5-8-12-27)28-13-9-6-10-14-28;/h5-18,29-30,35,37H,4,19-24H2,1-3H3;1H
